US08097628B2
CuCN (54.3 mg, 0.607 mmol) was added to a solution of (6-chloro-5-methyl-3-pyridinyl)methanol (47.8 mg, 0.303 mmol) in anhydrous DMF (2 ml) and the mixture was stirred under microwave irradiation at 250° C. for 35 min. Full conversion was observed by HPLC. TBME and 28% NH3 were added. Extraction, drying (MgSO4), filtration, and removal of the solvent afforded 5-(hydroxymethyl)-3-methyl-2-pyridinecarbonitrile (28.2 mg, 0.190 mmol, 62.8% yield) pure enough to be used in the next step.

reactant | CuCN | 0.607 mmol, 54.3 mg | C(#N)[Cu]
reactant | (6-chloro-5-methyl-3-pyridinyl)methanol | 0.303 mmol, 47.8 mg | ClC1=C(C=C(C=N1)CO)C | C7H8ClNO
reactant | TBME | CC(C)(C)OC | C5H12O
reactant | NH3 | N | H3N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 5-(hydroxymethyl)-3-methyl-2-pyridinecarbonitrile | 0.190 mmol, 28.2 mg, 62.8% yield | OCC=1C=C(C(=NC1)C#N)C | C8H8N2O
